US06699992B2
47.2 g of 3-cyano-2,4-dichloro-5-fluoroaniline (0.23 mol) were added to a solution of 150 ml of hydrochloric acid-water (1:1). The resulting mixture was stirred to be a slurry and then cooled to 0-5° C. A solution of sodium nitrite (16.7 g, 0.242 mol) and water (46 ml) was added thereto over 30 minutes. The resulting solution was added to a solution of cuprous bromide (0.275 mol) in 147 ml of hydrobromic acid. The reaction mixture was stirred for 2 hours and allowed overnight. The resulting mixture was wet-distilled. The distilled fraction was extracted with toluence. The oil layer was washed successively with 10% aqueous solution of NaOH, concentrated sulfuric acid and water, and dried over anhydrous sodium sulfate. After removing the solvent, the residue was crystallized from toluene to give 53.3 g of 3-cyano-2,4-dichloro-5-fluorobromobenzene (0.198 mol) in 86.2% yield.

reactant | 3-cyano-2,4-dichloro-5-fluoroaniline | 0.23 mol, 47.2 g | C(#N)C=1C(=C(N)C=C(C1Cl)F)Cl | C7H3Cl2FN2
reactant | hydrochloric acid water | 150 ml | Cl.O
reactant | sodium nitrite | 0.242 mol, 16.7 g | N(=O)[O-].[Na+]
reactant | water | 46 ml | O | H2O
reactant | hydrobromic acid | 147 ml | Br | BrH
product | 3-cyano-2,4-dichloro-5-fluorobromobenzene | 0.198 mol, 53.3 g, 86.2% yield | C(#N)C=1C(=C(C=C(C1Cl)F)Br)Cl | C7HBrCl2FN
